US04472310
A solution of 3β-acetoxy-5-hydroxy-15β,16β-methylene-5β-androst-6-en-17-one in 300 ml of methanol is stirred with 15 g of potassium carbonate for 30 minutes at room temperature. The reaction solution is diluted with diethyl ether, washed with water, dried, and evaporated, thus obtaining 27 g of 3β,5-dihydroxy-15β,16β-methylene-5β-androst-6-en-17-one, mp 187°-190° C., (acetone).

reactant | 3β-acetoxy-5-hydroxy-15β,16β-methylene-5β-androst-6-en-17-one | C(C)(=O)O[C@@H]1C[C@]2(C=C[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5)O | C22H30O4
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 300 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3β,5-dihydroxy-15β,16β-methylene-5β-androst-6-en-17-one | 27 g | O[C@@H]1C[C@]2(C=C[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5)O | C20H28O3
